US04331807
200 mg. of 4-aminopyridazine was suspended in 50 ml. of acetone. To the resulting suspension, 1.2 times the amount of phenyl isocyanate theoretically calculated was added and the mixture then reacted at room temperature overnight. The crystals formed were taken out by filtration. By recrystallization from an excess of methanol, N-(4-pyridazinyl)-N'-phenylurea was obtained (yield, greater than 80%); melting point higher than 250° C.

reactant | 4-aminopyridazine | NC1=CN=NC=C1 | C4H5N3
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetone | CC(=O)C | C3H6O
product | N-(4-pyridazinyl)-N'-phenylurea | N1=NC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C11H10N4O
